US07776910B2
Bromine (0.187 mL, 3.632 mmol) was added dropwise to a room temperature solution of 1-benzenesulfonyl-5-fluoro-1H-indole (1.0 g, 3.632 mmol) in DMF (5 mL). The reaction mixture was stirred at room temperature for 5 hours. A saturated solution of NH4Cl was added, and the resulting mixture was extracted with EtOAc. The combined organic extracts were washed with water and with brine; dried over Na2SO4, filtered, and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc, 95/5) to give 0.676 g (53% yield) of 1-benzenesulfonyl-3-bromo-5-fluoro-1H-indole as a white solid.

reactant | Bromine | 3.632 mmol, 0.187 mL | BrBr | Br2
reactant | 1-benzenesulfonyl-5-fluoro-1H-indole | 3.632 mmol, 1.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)F | C14H10FNO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-benzenesulfonyl-3-bromo-5-fluoro-1H-indole | 0.676 g, 53% yield | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC(=CC=C12)F)Br | C14H9BrFNO2S
